US06310070B1
1.65 g (7.7 mmol) of 4-benzylideneamino-5-imidazole carboxamide, 4.26 g (30.8 mmol) of potassium carbonate, and 3.84 g (23 mmol) of 3,4,5-trimethoxybenzyl chloride were reacted in the same manner as in Reference Example 2 to obtain 1.7 g of 4-amino-1-(3,4,5-trimethoxybenzyl)-5-imidazole carboxamide (yield 73%).

reactant | 4-benzylideneamino-5-imidazole carboxamide | 7.7 mmol, 1.65 g | C(C1=CC=CC=C1)=NC=1N=CNC1C(=O)N | C11H10N4O
reactant | potassium carbonate | 30.8 mmol, 4.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4,5-trimethoxybenzyl chloride | 23 mmol, 3.84 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
product | 4-amino-1-(3,4,5-trimethoxybenzyl)-5-imidazole carboxamide | 1.7 g, yield 73% | NC=1N=CN(C1C(=O)N)CC1=CC(=C(C(=C1)OC)OC)OC | C14H18N4O4
